US07534797B2
3-(8-Chloro-1-iodo-imidazo[1,5-a]pyrazin-3-yl)-1-hydroxymethyl-cyclobutanol
Under inert atmosphere N-iodosuccinimide (3.6 g, 0.016 mol) and 3-(8-chloro-imidazo[1,5-a]pyrazin-3-yl)-1-hydroxymethyl-cyclobutanol (3.16 g, 0.012 mol) were dissolved in N,N-dimethylformamide (30 mL) and heated at 60° C. for 3.0 hours. The reaction mixture was then concentrated in vacuo to a dark oil and purified by HPFC Jones 20 g silica gel column, eluting with 5% MeOH: CH2Cl2 to yield a light brown fluffy solid which was triturated with diethyl ether and hexanes to afford the title compound; MS (ES+): m/z 379.85 (100) [MH+], 381.80 (30) [MH+++]; HPLC: tR=2.30 min (OpenLynx, polar—5 min).

reactant | N-iodosuccinimide | 0.016 mol, 3.6 g | IN1C(CCC1=O)=O | C4H4INO2
reactant | 3-(8-chloro-imidazo[1,5-a]pyrazin-3-yl)-1-hydroxymethyl-cyclobutanol | 0.012 mol, 3.16 g | ClC=1C=2N(C=CN1)C(=NC2)C2CC(C2)(O)CO | C11H12ClN3O2
solvent | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
product | 3-(8-Chloro-1-iodo-imidazo[1,5-a]pyrazin-3-yl)-1-hydroxymethyl-cyclobutanol | ClC=1C=2N(C=CN1)C(=NC2I)C2CC(C2)(O)CO | C11H11ClIN3O2
